US05972946
Preparation of 5-nitro-2-phenyl-4(3H)-pyrimidinone:
To a mixture of sodium methoxide (8 g) and anhydrous ethanol (100 ml) is added benzamidine hydrochloride (11.7 g) at 0° C. The mixture is stirred at 0° C. for 30 minutes, and thereto is added dropwise a solution of crude ethyl 2-(N,N-dimethylaminomethylene)nitroacetate (14 g), which is obtained by refluxing a mixture of ethyl nitroacetate (10 g) and N,N-dimethylformamide dimethyl acetal (10.7 g) for three hours, followed by concentrating the mixture under reduced pressure, in anhydrous ethanol (50 ml) at the same temperature. After addition, the mixture is stirred at room temperature for 30 minutes, and refluxed for 12 hours. The reaction mixture is concentrated under reduced pressure, and water (150 ml) is added to the residue. The pH value of the mixture is adjusted to pH 4 by addition of conc. hydrochloric acid while the mixture is stirred at 0° C. The precipitates are collected by filtration, washed with water, and recrystallized from ethanol to give the desired compound (7 g), m.p. 264-266° C.

reactant | sodium methoxide | 8 g | C[O-].[Na+]
reactant | benzamidine hydrochloride | 11.7 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | ethyl 2-(N,N-dimethylaminomethylene)nitroacetate | 14 g | CN(C)C=C(C(=O)OCC)[N+](=O)[O-] | C7H12N2O4
reactant | ethyl nitroacetate | 10 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | N,N-dimethylformamide dimethyl acetal | 10.7 g | COC(N(C)C)OC | C5H13NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-nitro-2-phenyl-4(3H)-pyrimidinone | 7 g | [N+](=O)([O-])C=1C(NC(=NC1)C1=CC=CC=C1)=O | C10H7N3O3
